Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unresponsiveness
 
Major Surgical or Invasive Procedure:
- intubation and extubation
- fistulogram with balloon angioplasty and stenting of L arm 
dialysis fistula
- hemodialysis

 
History of Present Illness:
___ with T2DM, ESRD on HD, and HTN brought in by EMS for 
unresponsiveness since ~1700. 

EMS report indicates that per family pt has been sick for few 
days with N/V. Was talking/at baseline this morning until at 
least ~1700 hours. Initial vitals by EMS reported: ___ 94, SPO2 
90% RA, HR 44. GCS 3. Pupils pinpoint. Skin Pink/hot/dry.
- 12 Lead ECG reported as Sinus brady to 47 with 1st degree AV 
block. No STE.
- In ambulance BP 60/P, HR 44, SPO2 100% NRB, ETCO2 30, RR 28, 
- OPA unsuccessful at first with gag reflex. Noticed decrease in 
Resps and were then able to pass OPA.  
- ___ intubation unsuccessful so gave etomidate/succinylcholine 
and intubated on second try,
- Gave Narcan 1mg to no affect
- 2 PIVs 
    
In the ED, initial vitals were: HR42, BP 191/78. As per Nursing 
Documentation, "dopa" stopped at ___ after this BP. ___ 17.
Vitals at ___ show 93/66 p48.
 
Initial EKG: Sinus brady w/ prolonged intervals QRS 106, QTC 530

Exam Notable for: guaiac positive stool and OGT aspirate. 

Labs notable for: 
WBC 11.2, BUN/Cr 44/9.9. 
CK negative. Trop 0.03
Serum Tox negative
ABG 7.40/50/132/32 BE 5
Blood cultures x2 sent

Imaging:
CXR #1 Wet Read: R mainstem intubation with left lung white out. 

CXR #2 
1.  Low position of ET tube positioned 1.4 cm above the carina.  
Please retract by at least 1 cm for more optimal positioning.   
2.  NG tube tip just beyond the GE junction and can be advanced 
for more optimal positioning.   
3.  Aerated lungs post retraction of ET tube 

CT-Head: No acute intracranial process

Patient given:
- 2 amps D50 and 5mg glucagon with improvement in mental status 
- Vanc/Zosyn given because initially hypotensive
- Initially on fentanyl/versed for sedation as pt tried to pull 
out ET tube. Later switched to propofol. 

Vitals on transfer were HR 45 BPs 180/90
 
On arrival to the floor, patient intubated and on propofol. On 
FiO2 80%, PEEP 5, Vt 420, Rate 14.
 
REVIEW OF SYSTEMS: Complete ROS not possible but pt able to 
indicate throat pain and nod No to CP, SOB, other pain.  

Patient had recent admission ___ to ___ for 
hypoglycemia in setting of possible resp. illness and poor PO 
intake. Admission was complicated by intermittent, asymptomatic 
hypoxia on room air despite HD: workup negative for PE, 
pulmonary edema, pneumonia. found to have TBM on CT chest. 
Treated for COPD exacerbation. Pulm was consulted and 
recommended: outpatient PFTs, sleep study, Dynamic 9 inhalation 
/ exhalation airway CT scan as outpatient, and pH study to 
assess for GERD.

 
Past Medical History:
IDDM2 (dx ___ yrs ago), mult admissions for uncontrolled DM  
ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  
___ RUE AVG revision

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION EXAM:
GENERAL: Obese female awake and responding to verbal stimuli 
intubated.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink.
CARDIAC: S1, S2 distant with bradycardia. No m/r/g. No thrills, 
lifts. No S3 or S4.  
LUNGS: No chest wall deformities. Course breath sounds 
anteriorly but B/L air entry 
ABDOMEN: Soft, NTND. No masses palpable.
EXTREMITIES: No c/c/e. No femoral bruits over R ABG stick. 
Significant Left ankle deformity and poor hygeine to feet.
PULSES:  Dopplerable x 4 extremities.
NEURO: Mild drowsiness but follows basic commands. Comprehension 
intact and answers yes/no questions with gestures appropriately. 
Sensation and motor intact. Passed CAM assessment

DISCHARGE EXAM:
VS: 98.2 184/palp 62 ___ ___ 163 this AM (was 242 last night) 
GENERAL: NAD, comfortable
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink. No elevation in JVP appreciated.  
CARDIAC: S1, S2 distant with bradycardia in the ___. No m/r/g. 
No thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities. b/l basilar crackles
ABDOMEN: Soft, NTND. No masses palpable.  
EXTREMITIES: No c/c/e. fistula L upper arm, s/p baloon opening 
and stenting, with overlying ulcer at the site, now s/p duoderm 
from transplant surgery. Significant Left charcot ankle 
deformity and poor hygeine to feet with overgrown toenails R > 
L.  
NEURO: A+O x 3, able to do days of the week backwards
 
Pertinent Results:
___ 07:17PM BLOOD WBC-11.2* RBC-4.81 Hgb-11.7* Hct-39.8 
MCV-83 MCH-24.3* MCHC-29.3* RDW-19.2* Plt ___
___ 04:22AM BLOOD WBC-11.4* RBC-4.22 Hgb-10.2* Hct-34.8* 
MCV-83 MCH-24.2* MCHC-29.3* RDW-19.5* Plt ___
___ 04:22AM BLOOD Calcium-8.7 Phos-4.2 Mg-2.2
___ 07:17PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:16PM BLOOD pO2-132* pCO2-50* pH-7.40 calTCO2-32* 
Base XS-5
___ 07:16PM BLOOD Glucose-300* Lactate-0.7 Na-136 K-6.2* 
Cl-94* calHCO3-30

BCx x 2 - no growth, final

CT HEAD: FINDINGS:  There is no evidence of intracranial 
hemorrhage, edema, shift of normally midline structures, 
hydrocephalus, or infarction.  Mild prominence of the ventricles 
and sulci are consistent with age-related involutional change.  
Periventricular and subcortical white matter hypodensities are a 
nonspecific finding that can be seen in the setting of chronic 
small vessel ischemic disease.  Calcifications are noted of the 
bilateral cavernous carotid arteries.  Mucosal thickening is 
seen throughout multiple bilateral ethmoidal air cells as well 
as within the maxillary sinuses, right greater than left.  
Aerosolized secretions are also seen within the right maxillary 
sinus.  There are fluid levels within both sphenoid sinuses.  
Note is made of bilateral frontal sinus aplasia.  The mastoid 
air cells are well aerated.  No suspicious 
lytic or blastic lesions are identified. 
IMPRESSION:  No acute intracranial process. 

CXR IN ED: 1.  Low position of ET tube positioned 1.4 cm above 
the carina.  Please retract by at least 1 cm for more optimal 
positioning.   
2.  NG tube tip just beyond the GE junction and can be advanced 
for more 
optimal positioning. 3.  Aerated lungs post retraction of ET 
tube. 

FISTULOGRAM, with ___ guided intervention  ___
1. RUE graft aneurysm near the arterial anastomosis and into 2 
smaller graft aneurysms near the venous anastomosis. 
2. Complete occlusion of the right subclavian vein with 
extensive collateralization, treated with angioplasty and 
eventual stenting from a ___ approach. 
3. Multiple intra-graft and right axillary stenoses treated with 
balloon angioplasty 
IMPRESSION: 
High-grade central subclavian stenosis/occlusion  status post 
successful stenting with a 14 mm x 80 mm stent. Multiple 
intra-graft and axillary stenosis were successfully dilated with 
angioplasty. The graft had a palpable following the procedure. 

DISCHARGE LABS
___ 06:21AM BLOOD WBC-8.0 RBC-3.46* Hgb-8.5* Hct-28.0* 
MCV-81* MCH-24.5* MCHC-30.2* RDW-19.1* Plt ___
___ 06:21AM BLOOD Glucose-119* UreaN-34* Creat-6.6*# 
Na-132* K-4.9 Cl-93* HCO3-29 AnGap-15
___ 06:21AM BLOOD Calcium-8.0* Phos-4.7* Mg-2.___ with IDDM2, HTN and ESRD on HD who presented with 
unresponsiveness and hypoglycemia to 17. Intubated in the field 
for concern of decreasing respirations and initially admitted to 
the MICU.

# Hypoglycemia/IDDM2: The patient gives a history of low PO 
intake and nausea/vomiting the day of presentation (___). 
Also, she has a history of poor understanding of insulin (recent 
admission with severe hypoglycemia 1 month ago), and only recent 
acquired a glucometer. She says she took her insulin in the 
morning on ___ and then was not able to eat due to n/v. 
Hypoglycemia to 17 likely the cause of AMS at presentation. 
Hypoglycemia improved after glucose administration. The patient 
was initially intubated in the field, but was quickly extuabed 
in the MICU with return of normal mental status. Insulin regmin 
was changed from home doses (70/30) to a regimin of long and 
short acting insulin (lantus and humalog) at very low doses. She 
was followed by ___ in house. She was seen by the ___ 
teaching nurse as well as the PACT program in house. The 
patient's daughter, who manages her insulin, was taught the new 
insulin regimin extensively. The patient was arranged to set up 
care with a PCP (she has no established care outpatient at this 
time), who will manage her insulin outpatient. She was also set 
to follow up with podiatry given poor nail hygeine. PACT program 
will continue to follow this patient upon discharge.

# L arm Fistula: On presentation the patient's L arm fistula was 
noted to be very pulsitile, with abscence of a thrill. She got a 
fistulogram and ___ guided balloon and stenting procedure on ___. 
Got dialysis in house on a MWF schedule. Transplant surgery 
evaluated an ulcer overlying the fistula and feels that 
non-emergent surgical intervention will likely be required since 
this area is an increased risk of bleeding. Duoderm placed over 
the site, and the patient is to follow up with Transplant 
surgery in 2 weeks..
- Continue HD per schedule, avoid placing needles or silk tape 
over the area of ulceration
- Follow up in outpatient Access clinic in 1 week

# Sinus Bradycardia: Rates down to ___ on admission, improved to 
___ after extubation. Unclear if secondary to over beta-blockade 
(as metoprolol was increased last admission), increased vagal 
tone ___ hypertension, intrinsic SA node problem. However, 
talking to the daughter it turned out the patient was not taking 
metoprolol or clonodine at home, so these were held in the 
hospital and not restarted at discharge given persistent 
bradycardia to the ___.

# Hypertension: Chronic and poorly controlled. Medications were 
uptitrated last admission. Geting HD today, BP prior to AM meds 
was elevated. Cont lisinopril, amlodipine. Held metoprolol and 
clonidine for bradycardia and since patient was not taking them 
at home. 
- ___ need further BP control outpatient

# ESRD on HD MWF: dialysis MWF. got dialysis in house
- Continue sevelamer, vitamins, nephrocaps, Doxercalciferol 
- cont Epo 6000 Units qHD 
- the patient was counseled about the importance of not missing 
HD sessions outpatient

# Guaiac Positive Stools/OGT aspirate: No evidence of clinically 
significant bleeding. H/H is above baseline, no bright red 
blood, no melena, no longer hypotensive.  
- Continue Famotidine for GERD and monitor for evidence of 
bleeding
- likely needs outpatient colonoscopy
 
# Episodes of hypoxia last admission: Unclear etiology. Not 
currently an active issue. Patient satting well on RA. CTA 
negative for PE last admission but motion limited study. Stable 
for now so will continue to monitor.

# Mediastinal lymphadenopathy on CT scan 
-should be followed by surveillance CT in 6 months. 

# HLD: continue pravastatin, ASA

# PPX: heparin

# CODE: Full code 
 
# CONTACT: ___ ___, ___ (granddaughter), 
___ (uncle) 

TRANSITIONAL ISSUES
- It is very important for this patient to establish care with a 
PCP who can manage her HTN and insulin
- Continue HD per schedule, avoid placing needles or silk tape 
over the area of ulceration on fistula
- Follow up in outpatient Access clinic in 1 week
- F/U with podiatry for diabetic foot care
- Mediastinal lymphadenopathy on CT scan should be followed by 
surveillance CT in 6 months. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
Hold for SBP <100 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Famotidine 20 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Pravastatin 20 mg PO DAILY 
7. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Nephrocaps 1 CAP PO DAILY 
10. Lisinopril 10 mg PO DAILY 
11. 70/30 20 Units Breakfast
70/30 10 Units Dinner
12. Clonidine Patch 0.2 mg/24 hr 1 PTCH TD QTUES 
13. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1. Glucose Tab ___ TAB PO PRN hypoglycemia 
please give if the patient has a ___ glucose < 80 and/or has 
symptoms of hypoglycemia 
RX *dextrose  take ___ tablets by mouth as needed Disp #*16 
Tablet Refills:*0
2. Amlodipine 10 mg PO DAILY 
Hold for SBP <100 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Famotidine 20 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Lisinopril 10 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
RX *B complex-vitamin C-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0
9. Pravastatin 20 mg PO DAILY 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Vitamin B Complex 1 CAP PO DAILY 
RX *B complex vitamins [B-Complex]   1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
12. Glargine 1 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic   use to check blood sugar four times 
a day, before each meal and at bedtime Disp #*1 Box Refills:*0
RX *insulin glargine [Lantus] 100 unit/mL use for long acting 
insulin ___ Units before BED; Disp #*1 Vial Refills:*0
RX *insulin lispro [Humalog] 100 unit/mL per sliding scale prior 
to each meal Disp #*1 Vial Refills:*0
RX *lancets   use to check blood sugar four times a day: before 
each meal and prior to bedtime Disp #*1 Box Refills:*0
RX *insulin syringe-needle U-100 [Insulin Syringe] 30 gauge x 
___ use to give insulin as directed prior to each meal and 
bedtime Disp #*90 Syringe Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypoglycemia
Diabetes, type 2
End stage renal disease on hemodialysis
Arteriovenous Fistula Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. You were admitted for low blood sugar and 
unresponsiveness. You were intubated and admitted to the 
intensive care unit, but improved and could be extubated. Your 
blood sugar responded to glucose administration. Your insulin 
regimen was changed to a more gentle regimen. It is important 
that you stop using the insulin pen and the 70/30 insulin which 
you were previously using before, and only use the new insulin 
which we will prescribe at discharge (with long acting Lantus 
and short acting Humalog). We will also send you home with 
glucose pills in case your sugar is to become dangerously low 
again.

It is important that you take all medications as prescribed, and 
keep all follow up appointments.
 
Followup Instructions:
___